US06388084B1
To a solution of N-[(1,1-dimethylethoxyl)carbonyl]-4-(1,4-dimethyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester (132 mg, 0.33 mmol) in dioxane (1 mL) was added 4 N HCl solution in dioxane (1.5 mL) at room temperature. The solution was stirred for 4 h and concentrated under vacuum. The residue was dissolved in methanol (5 ml) and toluene (5 mL) and concentrated under vacuum to give 111 mg (99% yield) of 4-(1,4-dimethyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester hydrochloride salt as an amorphous white solid. EI-HRMS m/e calcd for C17H20N2O3 (M+) 300.1474, found 300.1486.

reactant | N-[(1,1-dimethylethoxyl)carbonyl]-4-(1,4-dimethyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester | 0.33 mmol, 132 mg | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)C=1C(N(C=CC1C)C)=O)=O | C22H28N2O5
reactant | HCl | 4 N | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | 4-(1,4-dimethyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester hydrochloride salt | 111 mg, 99% yield | Cl.COC([C@@H](N)CC1=CC=C(C=C1)C=1C(N(C=CC1C)C)=O)=O | InChI=1S/C17H20N2O3.ClH/c1-11-8-9-19(2)16(20)15(11)13-6-4-12(5-7-13)10-14(18)17(21)22-3;/h4-9,14H,10,18H2,1-3H3;1H/t14-;/m0./s1
